US08895547B2
2-Hydroxy-2-methyl-1-(4-morpholin-4-ylphenyl)propane-1-sulfonamide
Under inert gas, 0.264 g of N-(2,4-dimethoxybenzyl)-C-(4-morpholin-4-ylphenyl)methanesulfonamide was initially charged in 3 ml of THF and then, at −78° C., 0.85 ml of a 1.6 N butyllithium solution in hexane was added dropwise. The reaction mixture was stirred for 10 minutes and then 0.22 ml of acetone was added dropwise. The mixture was stirred at constant temperature for 30 minutes, 0.102 ml of trifluoroacetic acid was added and the mixture was allowed to come to room temperature. The solvent was removed under reduced pressure. The residue was dissolved in 4 ml of dichloromethane, and 1.2 ml of trifluoroacetic acid was added. After stirring at room temperature for 16 h, the crude product was purified in a purification laboratory by means of preparative HPLC. This gave the product with a molecular weight of 428.43 g/mol (C14H22N2O4S).

reactant | N-(2,4-dimethoxybenzyl)-C-(4-morpholin-4-ylphenyl)methanesulfonamide | 0.264 g | COC1=C(CNS(=O)(=O)CC2=CC=C(C=C2)N2CCOCC2)C=CC(=C1)OC | C20H26N2O5S
reactant | butyllithium | 1.6 N | C(CCC)[Li]
reactant | acetone | 0.22 ml | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 0.102 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-Hydroxy-2-methyl-1-(4-morpholin-4-ylphenyl)propane-1-sulfonamide | OC(C(S(=O)(=O)N)C1=CC=C(C=C1)N1CCOCC1)(C)C | C14H22N2O4S
